US07495006B2
trans-3-(Triisopropyl-siloxyethyl)cyclobutanol
Aqueous NaOH (0.4 mol/L, 12 mL, 4.56 mmol) was added to a stirred solution of trans-3-(triisopropyl-siloxyethyl)cyclobutyl-4-nitrobenzoate (0.96 g, 2.28 mmol) in 18 mL 1,4-dioxane at ambient temperature. After 1 hr, AcOH was added drop by drop. After 5 min, the reaction mixture was concentrated by rotovap. The residue was partitioned between EtOAc (10 mL) and saturated NaHCO3 (2×10 mL). The organic phase was dried over MgSO4 and solvent evaporation gave light yellow oil (0.57 g, 92.3%, Rf=0.23 (Hexane:EtOAc=9:1)). 1H NMR (CDCl3, 300 MHz): δ 1.00-1.07 (m, 21H), 1.63-1.70 (m, 2H), 1.78 (bs, 1H), 1.99-2.10 (m, 4H), 2.24-2.38 (m, 1H), 3.61-3.65 (t, J=6.6, 2H), 4.35-4.44 (m, 1H). 13C NMR (CDCl3, 75 MHz): δ 12.23, 18.29, 24.24, 38.05, 39.37, 62.27, 66.82. MS (FAB): expected for C15H32O2Si (M+H)+ 273.50. Found 273.22456.

reactant | NaOH | 4.56 mmol, 0.4 mol/L, 12 mL | [OH-].[Na+]
reactant | trans-3-(triisopropyl-siloxyethyl)cyclobutyl-4-nitrobenzoate | 2.28 mmol, 0.96 g | C(C)(C)C(C(O[SiH3])(C(C)C)C(C)C)[C@@H]1C[C@H](C1)C1=C(C(=O)[O-])C=CC(=C1)[N+](=O)[O-]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | trans-3-(Triisopropyl-siloxyethyl)cyclobutanol | C(C)(C)C(C(O[SiH3])(C(C)C)C(C)C)[C@@H]1C[C@H](C1)O | C15H32O2Si
